US05216176
Synthesis of 7- (2-octyn-1-yl)oxy coumarin
A solution of 7-hydroxycoumarin (0.324 g, 1.99 mmol) and 1-bromo-2-octyne (0.378 g, 1.99 mmol) in 200 ml of acetone was heated under reflux in the presence of anhydrous potassium carbonate (3 grams) for 24 hours. After the reflux period, the reaction mixture was cooled, filtered and the collected solid was washed with fresh acetone. The acetone washings and the filtrate were combined and the solvent evaporated under reduced pressure to yield a pale yellow viscous liquid. The crude product was dissolved in a minimum amount of ethyl acetate and petroleum ether added until the solution became cloudy. The cloudy solution was concentrated under reduced pressure and a white precipitate formed. This precipitate was collected by vacuum filtration and recrystallized from aqueous methanol to yield the title compound as shiny, colorless plates, m.p. 74°-75° C., 0.245 g, 50%. 1H-NMR: 0.8-2.2 (m, 11H, (CH2)4CH3), 4.7 (t, 2H, OCH2C C), 6.2 (d, 1H, C3 --H J=9.3 Hz), 6.8 (dd, 1H, C6 --H), 6.9 (d, 1H, C8 --H, J=2.1 Hz), 7.4 (dd, 1H, C5 --H, J=8.1 Hz), 7.6 (d, 1H, C4 --H, J=9.3 Hz).

reactant | 7-hydroxycoumarin | 1.99 mmol, 0.324 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | 1-bromo-2-octyne | 1.99 mmol, 0.378 g | BrCC#CCCCCC | C8H13Br
reactant | potassium carbonate | 3 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7- (2-octyn-1-yl)oxy coumarin | C(C#CCCCCC)OC1=CC=C2C=CC(OC2=C1)=O | C17H18O3
